US07459562B2
A) N-(3-Fluoro-4-hydroxyphenyl)acetamide
The title compound was prepared from the commercially available 2-fluoro-4-nitrophenol according the procedure of Burckhalter, J. H. et al. (J. Am. Chem. Soc. 1948, 70, 1363). Nitrophenol (5.73 g, 36.5 mmol) and acetic anhydride (3.72 g, 36.5 mmol) were dissolved in acetic acid (20 mL) and PtO2 (150 mg) was then added. The reaction mixture was shaken under H2 atmosphere (50 psi) at RT for 24 h. The precipitate which formed was collected by vacuum filtration and the filter paper was washed with acetic acid (25 mL). The combined filtrate and washing was concentrated in vacuo to give the title compound (2.0 g). The solid that remained on the filter paper was treated with MeOH to dissolve the product and the Pt2O filtered off. The filtrate was concentrated in vacuo and the solid obtained was triturated with 1:1 EtOAc/hexanes (200 mL) to give a second crop of the title compound (1.8 g, 62% overall). 1H NMR (DMSO-d6) δ 9.83 (s, 1H), 9.51 (s, 1H), 7.50 (dd, 1H, J=13.6, 2.5 Hz), 7.03 (d, 1H, J=8.5 Hz), 6.84 (dd, 1H, J=9.3, 9.3 Hz), 1.98 (s, 3H); MS(ESI+) m/z 170.23 (M+H)+.

reactant | 2-fluoro-4-nitrophenol | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | Nitrophenol | 36.5 mmol, 5.73 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | acetic anhydride | 36.5 mmol, 3.72 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 150 mg | O=[Pt]=O
product | N-(3-Fluoro-4-hydroxyphenyl)acetamide | 2.0 g | FC=1C=C(C=CC1O)NC(C)=O | C8H8FNO2
